US08686002B2
6-Ethoxy-3-(2-methoxybenzyl)quinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-5-ethoxybenzaldehyde and 3-(2-methoxyphenyl)propionitrile.

reactant | 2-amino-5-ethoxybenzaldehyde | NC1=C(C=O)C=C(C=C1)OCC | C9H11NO2
reactant | 3-(2-methoxyphenyl)propionitrile | COC1=C(C=CC=C1)CCC#N | C10H11NO
product | 6-Ethoxy-3-(2-methoxybenzyl)quinolin-2-amine | C(C)OC=1C=C2C=C(C(=NC2=CC1)N)CC1=C(C=CC=C1)OC | C19H20N2O2
